US04415572
5-(1-Piperazinyl)-3,4-dihydrocarbostyril monohydrobromide (2.6 g) and 2.34 ml of triethylamine were dissolved in 40 ml of DMF. The mixture was stirred at room temperature while slowly adding dropwise 10 ml of DMF solution containing 2.5 g of 4-methoxybenzoyl chloride. After completion of addition the reaction mixture was stirred for 30 minutes. The reaction mixture was poured into a large amount of water and extracted with chloroform. The extract was washed with saturated sodium hydrogencarbonate solution and subsequently with water and dried over anhydrous sodium sulfate. Chloroform was distilled off and residual crystals were recrystallized from methanol-chloroform to give 1.1 g of 5-[4-(4-methoxybenzoyl)-1-piperazinyl]-3,4-dihydrocarbostyril, m.p. 219°-220° C., colorless needles.

reactant | 5-(1-Piperazinyl)-3,4-dihydrocarbostyril monohydrobromide | 2.6 g | Br.N1(CCNCC1)C1=C2CCC(NC2=CC=C1)=O
reactant | triethylamine | 2.34 ml | C(C)N(CC)CC | C6H15N
reactant | 4-methoxybenzoyl chloride | 2.5 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | water | O | H2O
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 5-[4-(4-methoxybenzoyl)-1-piperazinyl]-3,4-dihydrocarbostyril | 1.1 g | COC1=CC=C(C(=O)N2CCN(CC2)C2=C3CCC(NC3=CC=C2)=O)C=C1 | C21H23N3O3
